US09278973B2
A solution of 2-(3,4-dichlorobenzoyl)hydrazinecarboximidamide (9.5 g, 38.62 mmol) in water (150 ml) was stirred for 7 h at reflux. The solids were collected by filtration to afford 3-(3,4-dichlorophenyl)-1H-1,2,4-triazol-5-amine as an off-white solid (7.9 g, 89%).

reactant | 2-(3,4-dichlorobenzoyl)hydrazinecarboximidamide | 38.62 mmol, 9.5 g | ClC=1C=C(C(=O)NNC(N)=N)C=CC1Cl | C8H8Cl2N4O
solvent | water | 150 ml | O | H2O
product | 3-(3,4-dichlorophenyl)-1H-1,2,4-triazol-5-amine | 7.9 g, 89% | ClC=1C=C(C=CC1Cl)C1=NNC(=N1)N | C8H6Cl2N4
